US07405210B2
Preparation 55: (S)-2-Amino-N,N-dimethylamino-3-pyridin-2-ylpropionamide hydrochloride
To a stirred solution of dimethylamine hydrochloride (153 g, 187 mmol) in DMF (8 mL) was added DIPEA (2 mL, 6.55 mmol), (S)-2-tert-butoxycarbonylamino-3-pyridin-2-ylpropionic acid (0.50 g, 1.87 mmol, Acros) and TBTU (0.60 g, 1.87 mmol). The reaction mixture was stirred at rt for 16 h. The solvent was removed in vacuo and the residue was dissolved in methanol (15 mL). To this was added 4M hydrochloric acid in dioxane (20 mL) and the reaction stiffed at rt for 16 h. The solvent was removed in vacuo and the residue partitioned between water (100 mL) and ethyl acetate (2×100 mL). The aqueous layer was evaporated to dryness to give a solid, which was recrystallised from ethanol to give the title compound as a pale brown solid. mr/z (ES+)=194.

reactant | dimethylamine hydrochloride | 187 mmol, 153 g | Cl.CNC
reactant | DIPEA | 6.55 mmol, 2 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | (S)-2-tert-butoxycarbonylamino-3-pyridin-2-ylpropionic acid | 1.87 mmol, 0.50 g | C(C)(C)(C)OC(=O)N[C@H](C(=O)O)CC1=NC=CC=C1 | C13H18N2O4
reactant | TBTU | 1.87 mmol, 0.60 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | (S)-2-Amino-N,N-dimethylamino-3-pyridin-2-ylpropionamide hydrochloride | Cl.N[C@H](C(=O)N(NC)NC)CC1=NC=CC=C1 | InChI=1S/C10H17N5O.ClH/c1-12-15(13-2)10(16)9(11)7-8-5-3-4-6-14-8;/h3-6,9,12-13H,7,11H2,1-2H3;1H/t9-;/m0./s1
